US04062862
7 g of p-fluoroallylbenzene was added to 800 ml of chloroform solution containing perbenzoic acid prepared from 46 g of benzoyl peroxide and the mixture was allowed to stand at about 5° C for 5 days. The resulting mixture was washed with sodium hydroxide solution, water, Mohr's salt solution, then water, and dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was distilled under reduced pressure to give 4.1 g (yield 52%) of p-fluoroallylbenzene oxide as colorless liquid.

reactant | p-fluoroallylbenzene | 7 g | FC=CCC1=CC=CC=C1 | C9H9F
reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | benzoyl peroxide | 46 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
product | p-fluoroallylbenzene oxide | 4.1 g, yield 52% | FC=CCC1=CC2C(C=C1)O2 | C9H9FO
